US05420298
Using an analogous procedure to that described in Example 27, 3-[2-(4-acetylphenylthio)thien-5-yl]-3-methoxy-1-(2,2,2-trifluoroethyl)pyrrolidine was reacted with hydroxylamine hydrochloride to give 3-{2-[4-(1-hydroxyiminoethyl)phenylthio]thien-5-yl}-3-methoxy-1-(2,2,2-trifluoroethyl)pyrrolidine as a gum in 63% yield.

reactant | 3-[2-(4-acetylphenylthio)thien-5-yl]-3-methoxy-1-(2,2,2-trifluoroethyl)pyrrolidine | C(C)(=O)C1=CC=C(C=C1)SC=1SC(=CC1)C1(CN(CC1)CC(F)(F)F)OC | C19H20F3NO2S2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 3-{2-[4-(1-hydroxyiminoethyl)phenylthio]thien-5-yl}-3-methoxy-1-(2,2,2-trifluoroethyl)pyrrolidine | 63% yield | ON=C(C)C1=CC=C(C=C1)SC=1SC(=CC1)C1(CN(CC1)CC(F)(F)F)OC | C19H21F3N2O2S2
